US05162322
3-Phenyl-5-[3-[4-(2-pyrimidinyl)-1-piperazinyl]propyl]2-oxazolidinone.
Following the procedure of Example 5, a mixture of 5-(3-chloropropyl)-3-phenyl-2-oxazolidinone (4.5 g, 0.0188 mol), 1-(2-pyrimidyl)piperazine dihydrochloride (4.47 g, 0.0188 mol), potassium carbonate (15.64 g, 0.113 mol), and potassium iodide (1.0 g) in n-butanol (200 mL) gave a solid which was recrystallized from isopropanol/isopropyl ether and dried under high vacuum to give 2.49 g (36% yield), mp 92°-98° C. and 118° C.

reactant | 5-(3-chloropropyl)-3-phenyl-2-oxazolidinone | 0.0188 mol, 4.5 g | ClCCCC1CN(C(O1)=O)C1=CC=CC=C1 | C12H14ClNO2
reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | 0.0188 mol, 4.47 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.113 mol, 15.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | n-butanol | 200 mL | C(CCC)O | C4H10O
product | 3-Phenyl-5-[3-[4-(2-pyrimidinyl)-1-piperazinyl]propyl]2-oxazolidinone | 36% yield | C1(=CC=CC=C1)N1C(OC(C1)CCCN1CCN(CC1)C1=NC=CC=N1)=O | C20H25N5O2
